US04298692
In order to manufacture small quantities of 3-hydroxyrifamycin s in pure form, it is advantageous to use preparative thin-layer chromatography; suitable eluants for this purpose are, for example, silica gel thin-layer plates (like the above-mentioned plates F 254) and a mixture of chloroform and methanol (4:1 or 6:1), or ethyl acetate, acetone and water (72:24:4) or of toluene, acetone and methanol (5:3:2). 3,31-Dihydroxyrifamycin S and 1-desoxy-1-oxarifamycin S are obtained in pure form in an analogous manner using the same plates and elution systems. The desired zone is separated off mechanically, collected and extracted with a suitable solvent, preferably ethyl acetate, in order to isolate the pure product. If necessary, this purification process can be repeated using various adsorbents and/or solvent combinations.

reactant | 3-hydroxyrifamycin s | C[C@H]1/C=C\C=C(/C(=O)NC2=C(C3=C(C(=C4C(=C3C(=O)C2=O)C(=O)[C@](O4)(O/C=C\[C@@H]([C@H]([C@H]([C@@H]([C@@H]([C@@H]([C@H]1O)C)O)C)OC(=O)C)C)OC)C)C)O)O)\C | C37H45NO13
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
solvent | acetone | CC(=O)C | C3H6O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 3,31-Dihydroxyrifamycin S | C[C@@H]1[C@H](/C=C\O[C@@]2(C(=O)C3=C4C(=C(C(=C3O2)C)O)C(=C(C(=O)C4=O)NC(=O)/C(=C\C=C/[C@@H]([C@@H]([C@H]([C@H]([C@H]([C@@H]1OC(=O)C)C)O)C)O)CO)/C)O)C)OC | C37H45NO14
